US08492582B2
A 2 mol/L aqueous solution of sodium hydroxide (4.5 mL) was added to a dioxane (5 mL) solution of the obtained methyl 2-(benzyloxy)-5-(oxazol-5-yl)benzoate (0.55 g), followed by stirring at room temperature for 2 hours and 40 minutes. The solvent was evaporated under reduced pressure, and water was added to the residue. After adjusting the pH to 4.0 with 6 mol/L hydrochloric acid, the solid substance was collected by filtration to obtain 0.46 g of 2-(benzyloxy)-5-(oxazol-5-yl)benzoic acid as a light yellow solid.

reactant | sodium hydroxide | 4.5 mL | [OH-].[Na+]
reactant | methyl 2-(benzyloxy)-5-(oxazol-5-yl)benzoate | 0.55 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C1=CN=CO1 | C18H15NO4
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(benzyloxy)-5-(oxazol-5-yl)benzoic acid | 0.46 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)C1=CN=CO1 | C17H13NO4
